US09255110B2
A mixture of 7-methyl-thieno[3,2-d]pyrimidine (1.2 g) and N-bromosuccinimide (2.9 g) in carbon tetrachloride (50 mL) was heated at reflux for 1 hour. The reaction mixture was then cooled, the solid formed was filtered off and the filtrate was concentrated under reduced pressure. The residue was suspended in water (10 mL) and the suspension was heated at reflux for 1 hour. The resulting mixture was basified by addition of a saturated aqueous solution of sodium bicarbonate and extracted twice with dichloromethane (100 mL). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The solid residue was triturated with ethyl acetate and hexane and then collected by filtration to give 0.8 g of thieno[3,2-d]pyrimidine-7-carbaldehyde.

reactant | 7-methyl-thieno[3,2-d]pyrimidine | 1.2 g | CC1=CSC2=C1N=CN=C2 | C7H6N2S
reactant | N-bromosuccinimide | 2.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | thieno[3,2-d]pyrimidine-7-carbaldehyde | 0.8 g | N1=CN=CC2=C1C(=CS2)C=O | C7H4N2OS
